US05160662
Into 20 ml of dry ethanol containing 3.76 g of oa p-(1-trifluoromethyl-heptyloxy)-benzonitrile, about 1 g of dry hydrogen chloride was introduced under stirring at a temperature below 10° C. After stirring at room temperature for 3 days, solvent was distilled off to obtain any oily product. To this, were added slowly 20 ml of dry ethanol containing about 2 g of ammonia under cooling with ice, followed by stirring at room temperature for 3 days. Ethanol and ammonia were removed to obtain 3.40 g of oily oa p-(1-trifluoromethyl-heptyloxy)-benzamidine hydrochloride. This oily hydrochloride was solidified by trituration in hexane to use the following reaction.

reactant | p-(1-trifluoromethyl-heptyloxy)-benzonitrile | FC(C(CCCCCC)OC1=CC=C(C#N)C=C1)(F)F | C15H18F3NO
reactant | hydrogen chloride | about 1 g | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml, about 2 g | C(C)O | C2H6O
solvent | ethanol | 20 ml, 3.76 g | C(C)O | C2H6O
product | p-(1-trifluoromethyl-heptyloxy)-benzamidine hydrochloride | Cl.FC(C(CCCCCC)OC1=CC=C(C(=N)N)C=C1)(F)F | InChI=1S/C15H21F3N2O.ClH/c1-2-3-4-5-6-13(15(16,17)18)21-12-9-7-11(8-10-12)14(19)20;/h7-10,13H,2-6H2,1H3,(H3,19,20);1H
